reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3](/[N:4]=[C:5](/[O:6][H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],31.3413809239673
[C:1]([C:2]([C@@:3]([C:4]([C:5](=[C:6]([H:18])[H:19])[H:16])([H:14])[H:15])([O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],70.32644245342021
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][H:11])=[C:4](/[O:5][H:12])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10],65.8040425804202
[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])=[C:6]=[N:7][H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],66.22120572278388
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3]/[C:4](=[C:5](/[O:6][H:10])[H:11])[H:9])[H:8])\[H:7],67.0648900536356
[C-:5]#[O+:6].[C:1]([C:2]([C:3][O:4][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],10.888605841019903
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O+:4]=[C-:3][N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],103.40725430436599
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[N:6]([H:13])[C:5][C:4]1([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],57.91447664203911
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:7],82.0676078646419
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@:3]1([H:12])[O:4][C:5]1([C:6]([H:13])([H:14])[H:15])[C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10],94.82399865087059
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1](/[C:2](=[N:3]/[C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:8])[H:9],46.906296387217296
[O:1]([C:2]([C:4]([N:5]([C+:3]=[C:6]([O-:7])[H:14])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],74.41522284775871
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[C:4](=[O:5])([N+:7]#[C-:6])[H:9].[N:1](=[C:2]=[O:3])[H:8],53.9846864916669
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6][O:7][H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],33.1750411911357
[C:1]([C:2](=[O:3])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:3][H:17])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7]1)([H:8])([H:9])[H:10],51.605846466864996
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[C:5]=[O:6])[H:13])[H:10])([H:7])([H:8])[H:9].[H:12][H:14],80.6535732599695
[C:1](=[C:2]([C:3]([C:4]([C:5]([C:6]#[C:7][H:17])([H:10])[H:15])([H:14])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],89.66907340394154
[C:1](/[C:2](=[C:3](\[O:4][H:10])[C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],64.5472272881908
[N:1](=[C:2](/[O:3][C:4]([N+:6]#[C-:5])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])\[H:7],38.9331203506507
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3][H:12])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10].[O:4]([H:13])[H:14],77.77998722941348
[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8]>>[C-:2]#[O+:3].[N:1]([N:6]([C:5](=[O:4])[H:9])[H:10])([H:7])[H:8],134.360335083868
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])/[C:4](=[N:5]/[H:14])[C:7]#[C:6]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],28.424107901297994
[C:1](/[C:2](=[C:3](\[O:4][H:10])[O:5][C:6]([H:12])([H:13])[H:14])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],44.681990023346806
[O:1]([C:2]([N:3]=[C:4]=[N:5][H:8])=[N:6][H:9])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],67.86319678694254
